US04372894
(d) Dimethyl 3,4-dichlorophenoxycarbonylphosphonate
From 10.3 g (85 mmole) of trimethylphosphite and 13.5 g (60 mmole) of 3,4-dichlorophenyl chloroformate (100°, 2 hours). Yield 11.4 g (64%) B.p.0.04 164° C. nD20 1.5271. Solidifies to colourless crystals m.p. 58°-9° C.

reactant | trimethylphosphite | 85 mmole, 10.3 g | COP(OC)OC | C3H9O3P
reactant | 3,4-dichlorophenyl chloroformate | 60 mmole, 13.5 g | ClC(=O)OC1=CC(=C(C=C1)Cl)Cl | C7H3Cl3O2
product | Dimethyl 3,4-dichlorophenoxycarbonylphosphonate | ClC=1C=C(OC(=O)P(OC)(OC)=O)C=CC1Cl | C9H9Cl2O5P
